US05780642
1-(4-Benzyloxyphenyl)-1-methylethylamine hydrochloride (25.0 g) was treated with acryloyl chloride (8.43 ml) in dichloromethane (250 ml) containing triethylamine (14.4 ml) to give N-[1-(4-benzyloxyphenyl)-1-methylethyl]acrylamide, m.p. 116°-117° C.

reactant | 1-(4-Benzyloxyphenyl)-1-methylethylamine hydrochloride | 25.0 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C)(C)N
reactant | acryloyl chloride | 8.43 ml | C(C=C)(=O)Cl | C3H3ClO
reactant | triethylamine | 14.4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | N-[1-(4-benzyloxyphenyl)-1-methylethyl]acrylamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C)(C)NC(C=C)=O | C19H21NO2
